US08232312B2
[(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetic acid
1.24 g tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate are dissolved in 10 ml dichloromethane. 5 ml of trifluoroacetic acid is added with stirring. The mixture is stirred for 2 hours at ambient temperature and then the solvents are eliminated in vacuo. The residue is extracted from diisopropylether and cyclohexane.

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 1.24 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC1=CC=CC=C1)=O)CC(=O)OC(C)(C)C | C27H27Cl2N3O5S
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [(3,5-dichloro-phenylsulphonyl)-(1-phenylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-acetic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC1=CC=CC=C1)=O)CC(=O)O | C23H19Cl2N3O5S
